US05691331
Step II-A: 1-(2-propyl)-1,5-benzodiazepine-2,4-dione
A solution of 1,5-benzodiazepine-2,4-dione (5.5 g, 0.031 mole) in DMSO (70 mL) was treated with cesium carbonate (10.17 g, 0.031 mole) and 2-iodopropane (5.27 g, 0.03 1 mole). The reaction was heated to 80° C. for two hours and then stirred at room temperature for 18 hours. The mixture was diluted with ethyl acetate (400 mL) and poured into water (500 mL). The organic layer was separated and the aqueous layer was extracted again with ethyl acetate (400 mL). The organic layers were combined, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 3:1 ethyl acetate:hexane to give 560 mg of product.

reactant | 1,5-benzodiazepine-2,4-dione | 0.031 mole, 5.5 g | N=1C(CC(N=C2C1C=CC=C2)=O)=O | C9H6N2O2
reactant | cesium carbonate | 0.031 mole, 10.17 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-iodopropane | 1 mole, 5.27 g | IC(C)C | C3H7I
reactant | water | 500 mL | O | H2O
solvent | DMSO | 70 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-propyl)-1,5-benzodiazepine-2,4-dione | 560 mg | CC(C)N1C(CC(NC2=C1C=CC=C2)=O)=O | C12H14N2O2
